US06232320B1
3,5-dibromopyridine-4-carboxaldehyde
A solution of diisopropylamine (6.6 mL, 46.43 mmol) in THF (40 mL) at 0° C. was treated with n-butyllithium in hexanes (2.50 M solution, 18.6 miL, 46.43 mmol) over 15 minutes, stirred at 0° C. for 30 minutes, diluted with THF (200 mL), cooled to −78° C., treated with 3,5-dibromopyridine (10 g, 42.21 mmol) in THF (110 mL) over 95 minutes, stirred at −78° C. for 30 minutes, treated dropwise with methylformate (5.2 mL, 84.42 mmol), stirred at −78° C. for 2 hours, transferred to ice-cold saturated NaHCO3 solution, stirred for 15 minutes, and extracted with diethyl ether. The extract was washed with brine, dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel with 10% acetone/hexane to provide the title compound. MS (DCI/NH3) m/z 266 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 8.91 (s, 2H), 10.09 (s, 1H).

reactant | diisopropylamine | 46.43 mmol, 6.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,5-dibromopyridine | 42.21 mmol, 10 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | methylformate | 84.42 mmol, 5.2 mL | COC=O | C2H4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 3,5-dibromopyridine-4-carboxaldehyde | BrC=1C=NC=C(C1C=O)Br | C6H3Br2NO
